US07812025B2
(1) 2-Bromo-4-phenylpyridine
To a solution of 2-dimethylaminoethanol (5.60 g, 62.8 mmol) in hexane (80 ml) was added dropwise 1.6N hexane solution of n-butyl lithium (78.5 ml, 125 mmol) under ice-cooling, and stirred at 0° C. for 30 minutes. Then, 4-phenylpyridine (3.24 g, 20.8 mmol) was added thereto, and stirred at 0° C. for 1 hour. After cooling the reaction solution to −78° C., a solution of carbon tetrabromide (25.0 g, 75.4 mmol) in hexane (40 ml) was added thereto, and stirred at −78° C. for 1 hour, then at room temperature for 1 hour. To the reaction solution was added water under ice-cooling, and extracted with ether. The extract was dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduce pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the titled compound 2.21 g (45.4%) as solid product.

reactant | 2-dimethylaminoethanol | 62.8 mmol, 5.60 g | CN(CCO)C | C4H11NO
reactant | n-butyl lithium | 125 mmol, 78.5 ml | C(CCC)[Li]
reactant | 4-phenylpyridine | 20.8 mmol, 3.24 g | C1(=CC=CC=C1)C1=CC=NC=C1 | C11H9N
reactant | carbon tetrabromide | 75.4 mmol, 25.0 g | C(Br)(Br)(Br)Br | CBr4
solvent | hexane | 80 ml | CCCCCC | C6H14
solvent | hexane | 40 ml | CCCCCC | C6H14
solvent | hexane | 1.6N | CCCCCC | C6H14
solvent | water | O | H2O
product | 2-Bromo-4-phenylpyridine | 2.21 g, 45.4% | BrC1=NC=CC(=C1)C1=CC=CC=C1 | C11H8BrN
